US07268159B2
3-Thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester was prepared from 3-bromo-1H-indolecarboxylic acid ethyl ester and 2-thiopheneboronic acid followed the procedure of Example 11 Step 2 as a light yellow powder: 1H NMR (DMSO-d6) δ 1.27 (t, J=7.2 Hz, 3H), 4.30 (q, J=7.2 Hz, 2H), 7.12-7.16 (m, 1H), 7.17-7.20 (m, 1H), 7.31-7.34 (m, 1H), 7.36(dd, J=5.1, 1.5 Hz, 1H), 7.51 (d, J=8.3 Hz, 1H), 7.63 (d, J=6.3 Hz, 1H), 7.71 (d, J=8.2 Hz, 1H), 12.02 (br s, 1H); MS (ESI) m/z 272 (MH+); 270 ([M−H]−).

reactant | 3-bromo-1H-indolecarboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1Br | C11H10BrNO2
reactant | 2-thiopheneboronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 3-Thiophene-2-yl-1H-indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=CC=C2C1C=1SC=CC1 | C15H13NO2S
